US05399578
The starting material can be obtained, for example, analogously to Example 1b): Reaction of 2.0 g of 2'-cyanobiphenyl-4-carbaldehyde, 9.6 g of molecular sieve 5 A, 1.34 g of (D)-alanine methyl ester hydrochloride and 680 mg of sodium cyanoborohydride yields N-[(2'-cyanobiphenyl-4-yl)methyl]-(D)-alanine methyl ester after flash chromatography (N3). 1H-NMR (DMSO): 1.21 ppm (d, 3H), 3.63 ppm (s, 3H), 3.75 ppm (dd, 1H), 4.56 ppm (d, 2H), 4.58 ppm (d, 2H), 5.31 ppm (t, 1H), 7.4-8 ppm aromatics.

reactant | 2'-cyanobiphenyl-4-carbaldehyde | 2.0 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C=O | C14H9NO
reactant | (D)-alanine methyl ester hydrochloride | 1.34 g | Cl.COC([C@H](N)C)=O
reactant | sodium cyanoborohydride | 680 mg | C(#N)[BH3-].[Na+]
product | N-[(2'-cyanobiphenyl-4-yl)methyl]-(D)-alanine methyl ester | COC([C@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C)=O | C18H18N2O2
